US07977367B2
Intermediate: tert-butyl 5-bromopyridin-2-ylcarbamate (I-29a)
To a solution of 2-amino-5-bromopyridine (8.65 g, 50 mmol) in THF (100 mL) was added lithium hexamethyldisilazide (105 mL, 105 mmol) under nitrogen at 0° C. After the addition, the mixture was stirred for 30 mins at 0° C. At this point, (BOC)2O (12 g, 55 mmol) was added to the reaction mixture and the mixture was stirred for another 30 mins at 0° C. TLC (petroleum ether/ethyl acetate=5:1) indicated the reaction was complete. The reaction mixture was washed with 1 N HCl (20 mL), and the residue was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by chromatography on silica to afford (I-29a) (8 g, 58.6%) as a white solid.

reactant | 2-amino-5-bromopyridine | 50 mmol, 8.65 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | lithium hexamethyldisilazide | 105 mmol, 105 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | (BOC)2O | 55 mmol, 12 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-bromopyridin-2-ylcarbamate | BrC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C10H13BrN2O2
